US08076486B2
To a solution of 3-[(2-fluoro-4-iodophenyl)amino]isonicotinic acid (360 mg; 1.01 mmol) was added 1,1′-carbonylbis(1H-imidazole) (196 mg; 1.21 mmol). The mixture was stirred overnight. The dark yellow colored solution was treated with thiosemicarbazide (110 mg mg; 1.21 mmol). The reaction mixture was stirred at room temperature overnight. Water (10 mL) was added, and extracted with ethyl acetate. Concentrated and purified on Flashmaster to obtain 2-{3-[(2-fluoro-4-iodophenyl)amino]isonicotinoyl}hydrazine carbothioamide. (300 mg, 69%) MS m/z: 432 M+1

reactant | 3-[(2-fluoro-4-iodophenyl)amino]isonicotinic acid | 1.01 mmol, 360 mg | FC1=C(C=CC(=C1)I)NC1=C(C(=O)O)C=CN=C1 | C12H8FIN2O2
reactant | 1,1′-carbonylbis(1H-imidazole) | 1.21 mmol, 196 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | thiosemicarbazide | 1.21 mmol, 110 mg | NNC(=S)N | CH5N3S
solvent | Water | 10 mL | O | H2O
product | 2-{3-[(2-fluoro-4-iodophenyl)amino]isonicotinoyl}hydrazine carbothioamide | FC1=C(C=CC(=C1)I)NC1=C(C(=O)NNC(N)=S)C=CN=C1 | C13H11FIN5OS
